US04558059
Synthesis of 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5-carboxamide
Into a mixed solution of 50 ml of aqueous 28% ammonia and 450 ml of ethanol, 15.4 g of ethyl 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5carboxylate which had been prepared by heating a mixture of 3,4-dimethoxybenzamide, ethyl α-chloroacetoacetate and n-butyl alcohol under a reflux for 5 hours was dissolved, and the solution was left at room temperature for 7 days. After condensing the solution to solid under a reduced pressure, the thus obtained residue was recrystallized from an aqueous ethanolic solution to obtain the object as colourless minute aciculate melting at 218° to 219.5° C. in an amount of 9.0 g corresponding to the yield of 65%.

reactant | ammonia | N | H3N
reactant | ethyl 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5carboxylate | 15.4 g | COC=1C=C(C=CC1OC)C=1SC(=C(N1)C)C(=O)OCC | C15H17NO4S
reactant | 3,4-dimethoxybenzamide | COC=1C=C(C(=O)N)C=CC1OC | C9H11NO3
reactant | ethyl α-chloroacetoacetate | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | n-butyl alcohol | C(CCC)O | C4H10O
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5-carboxamide | yield of 65% | COC=1C=C(C=CC1OC)C=1SC(=C(N1)C)C(=O)N | C13H14N2O3S
